Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
First-time seizure

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is ___ year-old woman with a history of HTN and DM2 
who
presents as a transfer from ___ for
first-time seizures. She is accompanied by her husband ___ 
who
assists in providing the history. 

She was in her usual state of health this morning, save for
complaint of a mild typical headache. They had breakfast and 
went
about housework. At 10:30AM, ___ went looking for her and
found her in the garage. She began to stare, and he was able to
catch her just as her arms flexed and began shaking. She let out
a cry and foamed at the mouth. It lasted for ___ minutes after
which she was somnolent. He called EMS who took her to ___. CT scan was normal. UA was unremarkable. She
remained fairly somnolent, but was able to awaken enough to
answer a few questions from the ED staff at around 12:00PM. At
~5:00PM she had another witnessed GTC seizure of similar
semiology. She was given 2mg of Ativan and loaded with 1g
phenytoin sodium over 30 minutes. She was subsequently
transferred here. 

Of note, her SBPs were noted to be quite elevated (___),
whereas during her last PCP visit in ___, her SBP was 120s-130s,
according to her husband. In addition to the headache this
morning, she also complained of a headache last night but said 
it
was nothing unusual. It resolved with 2 ibuprofen. Her husband
adds that her headaches seemed to have increase in frequency 
over
the last ___ months. 

She has no history of seizure. She has no history of head 
trauma,
however 3 weeks ago fell over her luggage at the airport and
scraped her leg. They travelled to ___ and ___, and some
of their travel companions became sick with a URI. They
themselves became sick upon return, but their symptoms have been
fully resolved for the past week. Her husband adds that 
yesterday
she briefly complained of seeing double. She adds that she has
been getting up more frequently at night to go to the bathroom.
Her husband says that her behavior and cognition have been
completely normal recently. 

She currently smokes 2 packs per week, since she was ___ years 
old
(at least 16 pack-years). 

Neuro ROS:
+ Seizure
+ Headache (mild frontal, increasing over ___ months)
+ Diplopia (last night)
- No focal weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention. 

General ROS: 
+ Recent URI, sick contacts
+ Nocturia
- No chest pain, palpitations, cough, shortness of breath.  No
nausea, vomiting, diarrhea, constipation or abdominal pain.  No
dysuria. No arthralgias, myalgias, or rashes.

 
Past Medical History:
Hyperlipidemia
Diabetes type 2
Cataracts 
 
Social History:
___
Family History:
Mother with diabetic seizures. 
No family history of stroke or cancer (per husband). 

 
Physical Exam:
-Vitals: T:98.4  BP:143/84  HR:84  RR:16  SaO2:97%

-General: Somnolent but rousable. Cooperative, NAD.
-HEENT: NC/AT. No scleral icterus noted. MMM. No lesions noted 
in
oropharynx.
-Neck: Supple. 
-Cardiac: Well perfused. 
-Pulmonary: Breathing comfortably on room air.
-Abdomen: Soft, NT/ND. 
-Extremities: No cyanosis, clubbing, or edema bilaterally. 
-Skin: No rashes or other lesions noted.

NEUROLOGIC EXAM:
-Mental Status: Alert, oriented x 3. Able to relate parts of
history without difficulty (at times appeared asleep in the
background, but would chime in additional facts about her ROS,
and "I'm full code!"). Attentive, able to name ___ backward.
Language is fluent with intact repetition, comprehension, and
naming. Normal prosody. There are no paraphasic errors. Speech 
is
not dysarthric. Able to follow both midline and appendicular
commands. 

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing grossly intact to speech.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline and equal strength bilaterally.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___      5       5     5     5  
R  5    ___   ___      5       5     5     5  

-Sensory: No deficits to light touch throughout. Extinguished on
right DSS (repeated numerous times, always said "left" to DSS). 

-DTRs:
  Bi Tri ___ Pat Ach 
L  2  1    1    1*  1*   
R  2  1    1    1*  1*
* Low-amplitude but crossed. 
Plantar response was flexor bilaterally.

-Coordination: No dysmetria on FNF.

-Gait: Deferred due to somnolence. 

 
Pertinent Results:
___ 06:38AM BLOOD WBC-10.0 RBC-4.33 Hgb-13.2 Hct-39.6 
MCV-92 MCH-30.5 MCHC-33.3 RDW-12.3 RDWSD-41.5 Plt ___
___ 10:20PM BLOOD WBC-16.4* RBC-4.51 Hgb-13.8 Hct-41.4 
MCV-92 MCH-30.6 MCHC-33.3 RDW-12.5 RDWSD-41.5 Plt ___
___ 06:38AM BLOOD Neuts-67.8 ___ Monos-8.5 Eos-1.1 
Baso-0.6 Im ___ AbsNeut-6.78*# AbsLymp-2.15 AbsMono-0.85* 
AbsEos-0.11 AbsBaso-0.06
___ 06:38AM BLOOD Plt ___
___ 06:38AM BLOOD Glucose-150* UreaN-11 Creat-0.6 Na-142 
K-3.7 Cl-105 HCO3-24 AnGap-13
___ 06:38AM BLOOD ALT-14 AST-15 AlkPhos-63 TotBili-0.3
___ 06:38AM BLOOD Calcium-8.5 Phos-2.8 Mg-2.0
___ 12:10AM BLOOD D-Dimer-677*
___ 12:15AM BLOOD %HbA1c-8.0* eAG-183*
___ 10:20PM BLOOD Triglyc-113 HDL-40* CHOL/HD-3.2 
LDLcalc-65
___ 10:20PM BLOOD TSH-0.69
___ 06:38AM BLOOD CRP-1.1
___ 10:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:20PM BLOOD GreenHd-HOLD

IMAGING/EEG:
- EEG: ictal discharges

 
Brief Hospital Course:
___ y/o woman with HLD, diabetes, lifelong smoker who presents 
with two first-time GTCs in setting of months of increasing mild 
headaches with associated sleep deprivation. Neurological 
examination non focal. Imaged with brain MRI which was notable 
for global cerebral atrophic changes and evidence of chronic 
small vessel ischemic disease but no acute findings. Lumbar 
puncture bland without evidence of infection. EEG showed 
rhythmic frontal slowing with no clinical correlate. We have 
started her on keppra 1000mg BID which she should continue until 
seen by outpatient neurology. She will need PCP follow up within 
one week of discharge.

Transitional Issues: 
Initiated keppra 
PCP follow up
___ follow up 
Counseled about standard seizure precautions and no driving
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Lisinopril 5 mg PO DAILY 
3. MetFORMIN XR (Glucophage XR) 1000 mg PO BID 
4. GlipiZIDE XL 5 mg PO DAILY 
5. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 

 
Discharge Medications:
1.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*3 
2.  Atorvastatin 40 mg PO QPM  
3.  GlipiZIDE XL 5 mg PO DAILY  
4.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
5.  Lisinopril 5 mg PO DAILY  
6.  MetFORMIN XR (Glucophage XR) 1000 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

___ were admitted to the neurology service after two first time 
seizures in the setting of infection, poor sleep, and headache. 
We have performed imaging of your brain with an MRI which did 
not show any abnormalities but was consistent with chronic 
changes related to vessel disease as we discussed. ___ 
puncture has not shown evidence of infection. We have monitored 
your brain waves with EEG which has shown no ongoing seizures. 
At this time we recommend ___ are discharged home on an anti 
seizure medication which we will continue for at least six 
months. We have also counseled about the law in MA which states 
if ___ have a loss of consciousness event ___ should not drive 
until event free. ___ will need follow up with your primary care 
doctor within one week from discharge. ___ will need to call 
___ during business hours to schedule a neurology 
appointment with Dr. ___. 

It has been a pleasure caring for ___, 

___ Neurology Team 
 
Followup Instructions:
___